US08114867B2
109.i. Rac-5-[4-(tert-butyl-dimethyl-silanyloxy)-butyl]-3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-oxazolidin-2-one
A solution of (2,3-dihydro-benzo[1,4]dioxin-6-yl)-carbamic acid benzyl ester (0.75 g, 2.6 mmol) and rac-tert-butyl-dimethyl-(4-oxiranyl-butoxy)-silane (prepared according to Angew. Chem. (2007), 46, 5896; 0.91 g, 1.5 eq.) in DMF (8 mL) at 0° C. was treated with a 2.2M solution of t-BuOLi in THF (3.6 mL, 3 eq.). The mixture was stirred at rt for 22 h. HCl 1M (5.3 mL) was added and the mixture partitioned between EA and water. The org. phase was washed with water and brine, dried over MgSO4 and concentrated. The product was purified by FC (Hex/EA 1:1, 1:2) to give the title intermediate as a yellowish oil (0.87 g, 81% yield).

reactant | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-carbamic acid benzyl ester | 2.6 mmol, 0.75 g | C(C1=CC=CC=C1)OC(NC1=CC2=C(OCCO2)C=C1)=O | C16H15NO4
reactant | rac-tert-butyl-dimethyl-(4-oxiranyl-butoxy)-silane | 0.91 g, 1.5 eq. | C(C)(C)(C)[Si](OCCCCC1OC1)(C)C | C12H26O2Si
reactant | t-BuOLi | C(C)(C)(C)O[Li]
reactant | THF | 3.6 mL, 3 eq. | C1CCOC1 | C4H8O
reactant | HCl | 1M, 5.3 mL | Cl | ClH
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Rac-5-[4-(tert-butyl-dimethyl-silanyloxy)-butyl]-3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-oxazolidin-2-one | 0.87 g, 81% yield | C(C)(C)(C)[Si](OCCCCC1CN(C(O1)=O)C1=CC2=C(OCCO2)C=C1)(C)C | C21H33NO5Si
